US07074798B2
b) 4-[1-(2-Aminoethyl)-7-(2-butynyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[1-(2-Azidoethyl)-7-(2-butynyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (0.17 g) was dissolved in tetrahydrofuran (3.5 ml), and water (0.23 ml) and triphenylphosphine (0.13 g) were added to the solution. After the mixture was stirred at room temperature overnight, the solvent was removed by distillation at reduced pressure. The residue was purified by silica gel column chromatography to give 0.12 g of the title compound from the elution fraction of ethyl acetate-methanol (10:1).

reactant | 4-[1-(2-Azidoethyl)-7-(2-butynyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.17 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC#CC)=O)CCN=[N+]=[N-])=O)C | C21H29N9O4
reactant | water | 0.23 ml | O | H2O
reactant | triphenylphosphine | 0.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | 4-[1-(2-Aminoethyl)-7-(2-butynyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.12 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC#CC)=O)CCN)=O)C | C21H31N7O4
